US08497278B2
Step 5: 3-((1H-imidazol-1-yl)methyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine
A mixture of 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride (0.10 mmol), 1H-imidazole (0.20 mmol, 2.0 eq) in AcCN (1 ml) was heated at 65° C. overnight. The mixture was basified with sat. NaHCO3 (5 ml), extracted with ethyl acetate or CH2Cl2 (2×5 ml). The combined organic solution was dried with Na2SO4, evaporated under vacuum. The product was purified by silica gel column chromatography (12 g silica gel RediSep column, eluted first with 10% ethyl acetate in hexane, then 20-50% acetone in hexane), to afford the product as a white solid. The product shows up as violet spot on TLC plate under UV light. m/e+ 303.4 for C19H19N4 (M+H)+; 1H-NMR (400 MHz, CDCl3, δ) 7.60-7.50 (m, 5H), 7.26 (d, J=8.065 Hz, 2H), 7.11 (m, 2H), 6.883 (s, 1H), 5.51 (s, 2H), 2.39 (s, 3H), 2.285 (s, 3H) ppm; 13C-NMR (100 MHz, CDCl3, δ), 146.681, 144.944, 138.582, 136.512, 130.787, 130.484, 129.832, 128.937, 128.330, 123.341, 120.710, 118.845, 117.396, 112.315, 40.969, 21.512, 18.608 ppm.

reactant | 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride | 0.10 mmol | Cl.ClCC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)C
reactant | 1H-imidazole | 0.20 mmol, 2.0 eq | N1C=NC=C1 | C3H4N2
reactant | NaHCO3 | 5 ml | C(=O)(O)[O-].[Na+]
solvent | AcCN | 1 ml | C(=O)(C)C#N | C3H3NO
product | 3-((1H-imidazol-1-yl)methyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine | N1(C=NC=C1)CC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)C | C19H18N4
